US04007190
A 1 mmole portion of 1,4-dinitroso-3,6-bis-(1-trifluoracetyl-5-chloro-2-piperidinyl)-2,5-piperazinedione is stirred in a 2-phase system of 10ml. of chloroform and 10 ml. of 0.2 N sodium hydroxide with ice-bath cooling for 4 hours. The solvents are then removed in vacuo and the residue is chromatographed on silica gel tic plates to afford 1,4-dinitroso-3,6-bis-(5-chloro-2-piperdinyl)-2,5-piperazinedione.

reactant | 1,4-dinitroso-3,6-bis-(1-trifluoracetyl-5-chloro-2-piperidinyl)-2,5-piperazinedione | N(=O)N1C(C(N(C(C1C1N(CC(CC1)Cl)C(C(F)(F)F)=O)=O)N=O)C1N(CC(CC1)Cl)C(C(F)(F)F)=O)=O | C18H18Cl2F6N6O6
reactant | sodium hydroxide | 0.2 N | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1,4-dinitroso-3,6-bis-(5-chloro-2-piperdinyl)-2,5-piperazinedione | N(=O)N1C(C(N(C(C1C1NCC(CC1)Cl)=O)N=O)C1NCC(CC1)Cl)=O | C14H20Cl2N6O4
